US05212187
N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-2-nitro-1,1-ethenediamine
Preparation is effected analogously to Example 22, using 0.54 g (1.7 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amount of 1-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]amino-1-methylthio-2-nitroethane as starting materials. Working up by chromatography analogously to Example 22 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=600 ([M+H]+, 12), 109 (100). For further analysis, a portion of the compound is converted into the tartaric acid salt in an ethanol/ether solvent mixture; m.p.: 63° C. (ethanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 1.7 mmol, 0.54 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | 1-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]amino-1-methylthio-2-nitroethane | CN(C)CC1=CC=C(CSCCNC(C[N+](=O)[O-])SC)O1 | C13H23N3O3S2
product | N-[2-[[5-[(dimethylamino)methyl]furfuryl]thio]ethyl]-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(CSCCNC(=C[N+](=O)[O-])NCCCN(C)CCN(C2=NC=CC=C2)CC2=CC=C(C=C2)F)O1 | C30H42FN7O3S
